US08980925B2
1-tetradecyloxy-2,4-dimethylbenzene (A2)
The product was generated via general protocol A using 1-bromotetradecane (44 mL, 0.149 mol), 2,4-dimethylphenol (19.5 mL, 0.164 mol), K2CO3 (82.4 g, 0.596 mol) and CH3CN (200 mL). Yielded 43.13 g (90.8%). 1H NMR (CDCl3, 600 MHz) δ: 7.00 (s, 1H, Ar—H), 6.94 (d, 3J=8.41 Hz, 1H, Ar—H), 6.75 (d, 3J=8.15 Hz, 1H, Ar—H), 3.97 (t, 3J=6.46 Hz, 2H, OCH2), 2.31 (s, 3H, Ar—CH3), 2.26 (s, 3H, Ar—CH3), 1.83 (p, 3J=7.3 Hz, 2H, O—CH2—CH2), 1.52 (p, 3J=7.6 Hz, 2H, O—CH2—CH2—CH2), 1.44-1.28 (m, 22H), 0.95 (t, 3J=7.05, 3H, CH2—CH3). 13C NMR (150 MHz) δ: 155.24, 131.45, 129.20, 126.88, 126.66, 111.08, 68.17, 53.41, 32.02, 31.90, 29.97, 29.79, 29.78, 29.76, 29.52, 29.50, 29.46, 26.24, 22.78, 20.47, 16.19, 14.19.

reactant | 1-bromotetradecane | 0.149 mol, 44 mL | BrCCCCCCCCCCCCCC | C14H29Br
reactant | 2,4-dimethylphenol | 0.164 mol, 19.5 mL | CC1=C(C=CC(=C1)C)O | C8H10O
reactant | K2CO3 | 0.596 mol, 82.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 200 mL | CC#N | C2H3N
product | 1-tetradecyloxy-2,4-dimethylbenzene | C(CCCCCCCCCCCCC)OC1=C(C=C(C=C1)C)C | C22H38O
